US06174901B1
Step E: Preparation of 4-hydroxy-3-pyridine-4-yl-4-m-tolyl-cyclopent-2-en-1-one:
To a solution of 1-pyridine-4-yl-2-m-tolyl-ethane-1,2-dione (1.8 g, 8.0 mmole) in acetone (20 mL) was added crushed KOH (448 mg, 8.0 mmole) in one portion at r.t. The reaction mixture was stirred at that temperature for 1 hr before quenching the reaction with aqueous NH4Cl. Standard aqueous work up, followed by chromatographic purification (silica gel, hexane/ethyl acetate) gave the a mixture of the title compound and the regiosiomer, 4-hydroxy-4-pyridine-4-yl-3-m-tolyl-cyclopent-2-en-1-one. MS (m/z): Calcd. C17H15NO2(M+): 265, found (M+H)+: 265.9.

reactant | 1-pyridine-4-yl-2-m-tolyl-ethane-1,2-dione | 8.0 mmole, 1.8 g | N1=CC=C(C=C1)C(C(=O)C=1C=C(C=CC1)C)=O | C14H11NO2
reactant | KOH | 8.0 mmole, 448 mg | [OH-].[K+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-hydroxy-3-pyridine-4-yl-4-m-tolyl-cyclopent-2-en-1-one | OC1(C(=CC(C1)=O)C1=CC=NC=C1)C=1C=C(C=CC1)C | C17H15NO2
